Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old male who is s/p pylorus preserving 
pancreaticoduodenectomy ___ with Dr. ___ chronic 
idiopathic pancreatitis. His postoperative course has been 
complicated by ongoing upper abdominal pain with intermittent 
nausea and vomiting and an ongoing high pain
medicine requirement. He has been admitted a few times for 
flares in his symptoms. He has been following with GI and 
chronic pain as an outpatient and has been going through a 
narcotic wean. Per his ___ pain clinic note, he was weaned 
completely off of dilaudid and continues on gabapentin, 
tizanidine, zofran, and cymbalta. 

He was admitted to ___ last week with a flare of 
his upper abdominal pain, nausea, and vomiting. Per discussion 
with their treating team, he had an EGD that showed diffuse 
gastritis with negative biopsies for malignancy or h.pylori. He 
had a CT scan with IV contrast only that did not show a small 
bowel obstruction or other postoperative complication. He has an
ongoing leukocytosis that was as high as 18 and was down to 12 
but now up to 17 again. He has had lipase elevation in the 
300-800 range, but otherwise normal LFTs. He has been passing 
gas, but is constipated and has not had BMs since admission. He 
is intermittently retching and feels nauseated. He is on IV
prokinetics, PPI, q6 dilaudid prn, and his other home meds. Per 
discussion with the ___ team and review of OMR 
notes, there is concern from the patient's mother and his 
treatment team that he still has access to and is taking 
narcotics as an outpatient and will require transfer to a ___
facility on discharge.

Transfer to ___ was requested for further care. On arrival, pt 
hemodynamically normal. Admission labs notable for slightly 
elevated amylase and lipase in addition to an elevated WBC, but 
otherwise normal chemistry and CBC. Is endorsing some mild 
nausea and crampy abdominal pain but otherwise has no active 
complaints.
 
Past Medical History:
# Idiopathic chronic pancreatitis dx ___, followed by GI Dr ___ 
___ in ___  
# Hypertension
# s/p Splenectomy due to splenic vein thrombosis ___
# s/p Knee surgery
-pylorus-preserving radical pancreaticoduodenectomy on ___

 
Social History:
___
Family History:
Mother with breast cancer.
Father with valvular heart disease.
 
Physical Exam:
On admission:
98.7 79 154/98 20 98%RA
Gen: NAD, comfortable sitting in bed
CV: RRR, no m/r/g
R: clear, unlabored
Abd: soft, NT, ND, well healing, no masses, not tympanitic; pt
reports discomfort prior to examination but is completely
distractable and does not show signs of tenderness even on deep
palpation
Ext: no c/c/e

 
Pertinent Results:
___ 11:00PM BLOOD WBC-18.0* RBC-5.02 Hgb-15.1 Hct-45.5 
MCV-91 MCH-30.1 MCHC-33.2 RDW-15.5 RDWSD-51.9* Plt ___
___ 09:42AM BLOOD WBC-16.6* RBC-4.86 Hgb-14.8 Hct-45.0 
MCV-93 MCH-30.5 MCHC-32.9 RDW-16.0* RDWSD-54.1* Plt ___
___ 09:42AM BLOOD Glucose-92 UreaN-4* Creat-0.6 Na-135 
K-4.0 Cl-96 HCO3-27 AnGap-16
___ 11:00PM BLOOD ALT-20 AST-19 AlkPhos-132* Amylase-121* 
TotBili-0.4
___ 11:00PM BLOOD Lipase-215*
___ 09:42AM BLOOD Calcium-8.9 Phos-4.4 Mg-1.9
___ 11:00PM BLOOD PREALBUMIN- 15   

Date/Time: ___ 6:54 am
      STOOL     CONSISTENCY: NOT APPLICABLE      Source: Stool. 
                    **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

___ BAS/UGI AIR/SBFT:
IMPRESSION:  Normal small bowel follow through. 

  
 
Brief Hospital Course:
The patient s/p Whipple procedure for chronic pancreatitis on 
___, multiple readmissions secondary to chronic pain issues 
was transferred from ___ and admitted to the HPB 
Surgical Service for evaluation of abdominal pain, nausea and 
vomiting. OSH abdominal CT was uploaded and reviewed by Dr. 
___ demonstrated no acute surgical problem. Patient's 
lipase and amylase were elevated, and patient had mild 
leukocytosis. Chronic pain service consult was requested. On HD 
2, patient underwent small bowel follow through, which was 
negative for any obstruction. Pain service recommended to wean 
off opioids prior to discharge, continue Gabapentin and 
Cymbalta. Patient's diet was advanced to clears as since 
admission he had no emesis and did not requested any antiemetic. 
Psychiatry and Medicine services were consulted as well in order 
to optimize recommendations upon discharge. Medicine recommended 
discontinue narcotics and start patient on capsaicin and 
Maalox/Diphenhydramine/Lidocaine for possible GERD related pain. 
Patient's leukocytosis was thought to be related for recent dry 
heaving/emesis as patient has no other symptoms of infection. 
Psychiatry recommended to discontinue Xanax, and follow up with 
pain management as outpatient in order to be evaluated for 
possible Methadone/Suboxone treatment. Patient has a follow up 
with Dr. ___ management) in ___. Patient's 
narcotic pain medications were discontinued, diet was advanced 
to regular and was well tolerated. Patient was discharged home 
on HD5 in stable condition.  
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance. The patient 
understand and agreed with the discharge plan.

 
Medications on Admission:
duloxetine 60', erythromycin 250''',
dilaudid 0.5 q6 prn, creon ___ TID w/ meals, reglan 5mg TID,
nicotine patch 14mg/24hr, Zofran prn, protonix 40'', miralax 
prn,
lyrica 75'', senna prn, sucralfate 1'''' (meals and bedtime),
Tylenol prn  
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 
do not exceed more then 3000 mg/day  
2.  Capsaicin 0.025% 1 Appl TP DAILY 
RX *capsaicin 0.025 % apply once a day on affected area once a 
day Refills:*0 
3.  Docusate Sodium 100 mg PO BID  
4.  Erythromycin 250 mg PO Q8H 
RX *erythromycin 250 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
5.  Maalox/Diphenhydramine/Lidocaine ___ mL PO QID:PRN Pain 
RX *alum-mag hydroxide-simeth [Antacid with Simethicone] 200 
mg-200 mg-20 mg/5 mL 5mL mLs by mouth four times a day 
Refills:*0 
6.  Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg 1 by mouth QIDACHS Disp #*40 Tablet 
Refills:*0 
7.  Ondansetron ___ mg PO Q8H:PRN nausea  
8.  Simethicone 40 mg PO QID  
9.  DULoxetine 60 mg PO DAILY  
10.  Nicotine Patch 14 mg TD DAILY  
11.  Omeprazole 40 mg PO BID  
12.  Pregabalin 75 mg PO BID 
RX *pregabalin [Lyrica] 75 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
13.  Senna 8.6 mg PO BID  
14.  Tizanidine 4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Chronic abdominal pain.
2. Chronic gastritis.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were transferred from ___ and admitted to the 
surgery service at ___ for evaluation of abdominal pain. Your 
CT scan was reviewed and no acute surgical interventions were 
needed at this time. You were consulted by Chronic pain, 
Gastroenterology, Psychiatry and Medicine teams. All recommended 
to wean off narcotics pain medication. Psychiatry service 
thought that you may benefit from follow up with pain management 
clinic. You and are now safe to return home to complete your 
recovery with the following instructions:
.
Please call your doctor or nurse practitioner if you experience 
the following:
 *You experience new chest pain, pressure, squeezing or 
tightness.
 *New or worsening cough, shortness of breath, or wheeze.
 *If you are vomiting and cannot keep down fluids or your 
medications.
 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
 *You see blood or dark/black material when you vomit or have a 
bowel movement.
 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
 *Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
 *Any change in your symptoms, or any new symptoms that concern 
you.
 .
 General Discharge Instructions:
 Please resume all regular home medications , unless 
specifically advised not to take a particular medication.  Also, 
please take any new medications as prescribed.
 Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
 Avoid driving or operating heavy machinery while taking pain 
medications.
 Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
 
Followup Instructions:
___